US04014872
(6R,7R)-3-Keto-7-phenylacetamidocepham
A solution of (3R,6R,7R)-3-hydroxy-7-phenylacetamidocepham (0.5 g., 1.72 mmole) in anhydrous acid-free methylene chloride (15 ml.) containing anhydrous tetrahydrofuran (3 ml.) was treated with a solution of chromium trioxide/pyridine complex (1.3 g., 3 equivalents) in methylene chloride 30 ml.) at 21° for 1 hour. The reaction mixture was poured into excess dilute hydrochloric acid. After separation, the organic phase was washed with water, dried, and evaporated to an oil. Trituration with ethyl acetate and ether gave the title compound (0.095 g., 19% m.p. 174° to 177° (cap.) νmax. (bromoform, Unicam) 3430 (NH), 1770 (β-lactam), 1735 (ketone), 1678 and 1515 cm.- 1 (amide).

reactant | (3R,6R,7R)-3-hydroxy-7-phenylacetamidocepham | 1.72 mmole, 0.5 g | O[C@H]1CS[C@H]2N(C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C14H16N2O3S
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | (6R,7R)-3-Keto-7-phenylacetamidocepham | O=C1CS[C@H]2N(C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C14H14N2O3S
